US04642313
3 g of methyl 5-(3-furyl)oxazole-4-carboxylate and 2.6 g of 85% potassium hydroxide are dissolved in 100 ml of methanol, and the solution is stirred at room temperature overnight. Then, the reaction mixture is evaporated under reduced pressure to remove solvent, and the residue is acidified with dil. hydrochloric acid. The precipitated crystals are collected by filtration, washed with cold water and then dried. 2.6 g of 5-(3-furyl)oxazole-4-carboxylic acid are thereby obtained. Yield: 93.7%

reactant | methyl 5-(3-furyl)oxazole-4-carboxylate | 3 g | O1C=C(C=C1)C1=C(N=CO1)C(=O)OC | C9H7NO4
reactant | potassium hydroxide | 2.6 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-(3-furyl)oxazole-4-carboxylic acid | 2.6 g, Yield: 93.7% | O1C=C(C=C1)C1=C(N=CO1)C(=O)O | C8H5NO4
